US06307069B1
A reactor equipped with a stirrer, reflux-condenser, thermometer and nitrogen gas inlet pipe was charged with 297 g of 2-tridecanone, 166 g of glycerol and a solvent amount of toluene, and following addition of p-toluenesulfonic acid as a catalyst, the dehydrative condensation reaction was carried out at the reflux temperature for 24 hours. The resulting crude product was washed with an aqueous solution of potassium carbonate and further with 3 portions of distilled water and finally purified by distillation under reduced pressure to provide 2-methyl-2-undecyl-4-hydroxymethyl-1,3-dioxolane.

reactant | 2-tridecanone | 297 g | CC(CCCCCCCCCCC)=O | C13H26O
reactant | glycerol | 166 g | OCC(O)CO | C3H8O3
catalyst | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-2-undecyl-4-hydroxymethyl-1,3-dioxolane | CC1(OCC(O1)CO)CCCCCCCCCCC | C16H32O3
